US07462629B2
To a suspension of 3,4-dihydro-1H-isoquinoline-2,6-dicarboxylic acid 2-tert-butyl ester (96 mg, 0.348 mmol) in toluene (4 mL) is added SOCl2 (254 μL, 10 eq.). The mixture is heated to reflux for 3 hours. All the solvent is removed under reduced pressure. The residue is redissolved in toluene and evaporated to dryness twice to remove excess HCl and is dried under high vacuum for 2 hours to give crude 6-chlorocarbonyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester.

reactant | 3,4-dihydro-1H-isoquinoline-2,6-dicarboxylic acid 2-tert-butyl ester | 0.348 mmol, 96 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C(=O)O | C15H19NO4
reactant | SOCl2 | 254 μL, 10 eq. | O=S(Cl)Cl | Cl2OS
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chlorocarbonyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)C(=O)Cl | C15H18ClNO3
